US04762840
The said starting material was also prepared by dissolving 154.6 g of ethyl 2-(p-aminophenyl)propionate [Arzneim. Forsch, Vol. 23, p. 1090 (1973)] in 95% acetic acid and 261 g of potassium isothiocyanate were added with stirring. A solution of 149.4 g of Br2 in 750 ml of 95% acetic acid was then added dropwise at 18°-25° C. over 2 hours and the mixture was stirred for an extra half hour, then poured into 8 liters of water. The mixture was filtered through celite and then neutralized to pH 5-6 using 6+ liters of 20% Na2CO3 solution. The product was then extracted with CH2Cl2 and the organic layer was separated, washed with water, dried over MgSO4 and finally filtered and evaporated to dryness. The crude product was dissolved in 300 ml of hot ethyl acetate and an equal volume of petroleum ether (40°-60° C.) was added. On cooling, cream colored crystals were formed which were filtered off, washed with ethyl acetate/petroleum ether and dried to obtain 97 g (48.5% yield) of the ethyl 2-amino-α-methylbenzothiazole-6-acetate melting at 146° C. A second crop of 29 g was obtained from the mother liquors for a total yield 63%.

reactant | ethyl 2-(p-aminophenyl)propionate | 154.6 g | NC1=CC=C(C=C1)C(C(=O)OCC)C | C11H15NO2
reactant | potassium isothiocyanate | 261 g | [N-]=C=S.[K+]
reactant | Br2 | 149.4 g | BrBr | Br2
reactant | water | 8 liters | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 750 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-amino-α-methylbenzothiazole-6-acetate | 97 g, 48.5% yield | NC=1SC2=C(N1)C=CC(=C2)C(C(=O)OCC)C | C12H14N2O2S
